US08293916B2
Step 5: 5-(4-Fluoro-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a −78° C. solution of 4.06 g of 5-(4-Fluoro-phenyl)-4-iodo-1-methyl-1H-pyrazole-3-carboxylic acid ethyl ester in 80 mL of dry THF were added dropwise 8.13 ml of a 1.6 M solution of n-Butyllithium in THF maintaining the temperature below −70° C. The solution was stirred for 15 min at −75° C. and 1.4 ml of Methyl iodide was added. The reaction mixture was stirred for 30 min at −75° C. and allowed to warm up to room temperature. The mixture was worked up with Ethyl acetate and brine. The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product (3.15 g) was purified by chromatography on silica gel (Heptane/Ethyl acetate 2:1). The desired product was obtained as a yellow oil (1.00 g, 35%), which solidified on standing. MS: m/e=263.1 ([M+1]+).

reactant | 5-(4-Fluoro-phenyl)-4-iodo-1-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 4.06 g | C(C)OC(=O)C1=NN(C(=C1I)C1=CC=C(C=C1)F)C | C13H12FIN2O2
reactant | n-Butyllithium | C(CCC)[Li]
reactant | Methyl iodide | 1.4 ml | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-(4-Fluoro-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)F)C | C14H15FN2O2
